US08034953B2
Step 2. 4-Amino-N-(6-chloropyridin-2-yl)-1,2,5-oxadiazole-3-carboximidoyl chloride
A solution of 4-amino-N-(6-chloropyridin-2-yl)-1,2,5-oxadiazole-3-carboxamide (62 mg, 0.26 mmol) in benzene (5 mL) was treated with phosphorus pentachloride (0.12 g, 0.57 mmol) and stirred at reflux for 3 h. The reaction mixture was concentrated and rediluted with benzene and concentrated (3×) to give the desired product which was used immediately in the next step.

reactant | 4-amino-N-(6-chloropyridin-2-yl)-1,2,5-oxadiazole-3-carboxamide | 0.26 mmol, 62 mg | NC=1C(=NON1)C(=O)NC1=NC(=CC=C1)Cl | C8H6ClN5O2
reactant | phosphorus pentachloride | 0.57 mmol, 0.12 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | 4-Amino-N-(6-chloropyridin-2-yl)-1,2,5-oxadiazole-3-carboximidoyl chloride | NC=1C(=NON1)C(=NC1=NC(=CC=C1)Cl)Cl | C8H5Cl2N5O
